### PR TITLE
[Merged by Bors] - feat(Data/Nat/ModEq): Add modEq_iff_add_fac

### PR DESCRIPTION
**Pull request by YuvalFilmus**
Add a lemma `Nat.modEq_iff_add_fac` which is analogous to `Int.modEq_iff_add_fac`.
This lemma came up in some proof.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/ModEq.lean [hunk 1]
```diff
@@ -314,6 +314,10 @@ lemma add_modEq_left : n + a ≡ a [MOD n] := by simp
 
 lemma add_modEq_right : a + n ≡ a [MOD n] := by simp
 
+theorem modEq_iff_add_fac (h : a ≤ b) : a ≡ b [MOD n] ↔ ∃ (t : ℕ), b = a + n * t := by
```
Comment (jcommelin) [inline Mathlib/Data/Nat/ModEq.lean]:
```suggestion
theorem modEq_iff_exists_eq_add (h : a ≤ b) : a ≡ b [MOD n] ↔ ∃ (t : ℕ), b = a + n * t := by
```

**Review by jcommelin — COMMENTED** [review]
bors d+
